US07745438B2
4-(R)-[3-(3-Acetoxyphenyl)-1-(R)-hydroxy-2-(S)-nitropropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Dissolve acetic acid 3-(2-nitroethyl)-phenyl ester (25.53 g, 121.6 mmol) and tert-butyl (R)-(+)-4-formyl-2,2-dimethyl-3-oxazolidinecarboxylate (Gardner's aldehyde) (22.38 g, 97.61 mmol) in dry tetrahydrofuran (200 mL). Cool in ice bath and add tetrabutylammonium fluoride (98 mL, 98 mmol, 1.0 M in tetrahydrofuran) and stir for 15 minutes. Pour into ice water (2.7 L), wash with 1 N hydrochloric acid (200 mL), saturated aqueous sodium chloride, dry (magnesium sulfate), filter through a pad of silica gel and concentrate. Purify using silica gel chromatography, eluting with 5:95 ethyl acetate:dichloromethane, followed by 2 separate crystallizations using hexanes/dichloromethane to give the desired compound (18.372 g, 43% total yield).

reactant | acetic acid 3-(2-nitroethyl)-phenyl ester | 121.6 mmol, 25.53 g | [N+](=O)([O-])CCC=1C=C(C=CC1)OC(C)=O | C10H11NO4
reactant | tert-butyl (R)-(+)-4-formyl-2,2-dimethyl-3-oxazolidinecarboxylate | 97.61 mmol, 22.38 g | C(=O)[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C11H19NO4
reactant | tetrabutylammonium fluoride | 98 mmol, 1.0 M, 98 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-(R)-[3-(3-Acetoxyphenyl)-1-(R)-hydroxy-2-(S)-nitropropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 18.372 g, 43% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)OC(C)=O)[N+](=O)[O-])O)(C)C | C21H30N2O8
